US07820683B2
(2R)—N-ethyl-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 5, methyl (2R)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (250 mg, 0.55 mmol) was reacted with ethylamine to give the title compound as a beige solid (160 mg, 62%), except that the crude material was purified on an HPLC column (C18, 5 microns, 19 mm diameter, 100 mm length) of a preparative HPLC-MS system eluting with a mixture of water and acetonitrile containing 2 g/l of ammonium carbonate (gradient). NMR Spectrum 1.04 (t, 3H), 1.65 (d, 3H), 3.17 (m, 2H), 5.15 (q, 1H), 5.77 (s, 2H), 6.95 (d, 1H), 7.01 (d, 1H), 7.29 (m, 1H), 7.36 (d, 1H), 7.72 (m, 4H), 8.17 (s, 1H), 8.44 (br t, 1H), 8.53 (m, 3H), 10.70 (br s, 1H); Mass spectrum MH+ 468.

reactant | methyl (2R)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.55 mmol, 250 mg | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C25H22N6O3
reactant | ethylamine | C(C)N | C2H7N
product | (2R)—N-ethyl-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 160 mg, 62% | C(C)NC([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1)=O | C26H25N7O2
